US05821366
2-(METHYLTHIO)BENZYLAMINE
A solution of 2-(methylthio)benzonitrile (29.8 g) in dry ether (150 ml ) was added dropwise to a stirred suspension of lithium aluminium hydride (11.6 g) in dry ether (360 ml) under nitrogen. A thick gum formed which was dissolved by the addition of dry THF (100 ml). The mixture was stirred at room temperature for 2 hours, Water (12 ml) was then carefully added followed by a 15% aqueous solution of sodium hydroxide (36 ml) and more water (12 ml). The mixture, was filtered, the filtrate washed with water, dried and evaporated in vacuo. The residue was distilled in vacuo to give a colourless oil. Yield=20.9 g.

reactant | 2-(methylthio)benzonitrile | 29.8 g | CSC1=C(C#N)C=CC=C1 | C8H7NS
reactant | lithium aluminium hydride | 11.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 36 ml | [OH-].[Na+]
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 360 ml | CCOCC | C4H10O
solvent | water | 12 ml | O | H2O
solvent | Water | 12 ml | O | H2O
product | 2-(METHYLTHIO)BENZYLAMINE | CSC1=C(CN)C=CC=C1 | C8H11NS
